US05349095
4-Benzoylbenzocyclobutene is reduced with sodium borohydride in 2 mL ethanol. 1-(4-Benzocyclobutenyl)benzyl alcohol is obtained.

reactant | 4-Benzoylbenzocyclobutene | C(C1=CC=CC=C1)(=O)C1=C2C(CC2)=CC=C1 | C15H12O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | 1-(4-Benzocyclobutenyl)benzyl alcohol | C1=CC2=C1C=CC(=C2)C2(CO)CC=CC=C2 | C15H14O
